US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (14 mg, 0.04 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 10 mg of a white solid. MS (ESI) 287 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.04 mmol, 14 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CO)C(F)(F)F)=O)CC1 | C18H21F3N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.OCC1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C13H13F3N2O2.ClH/c14-13(15,16)9-4-7(6-19)3-8-10-5-17-1-2-18(10)12(20)11(8)9;/h3-4,10,17,19H,1-2,5-6H2;1H/t10-;/m0./s1
